US07175670B2
2.2 g (0.03 mol) of pyrrolidine were added over 10 minutes to a solution containing 3 g (0.015 mol) of 2-chloro-3,5-dinitropyridine in 30 ml of dioxane, at 40° C. The reaction medium was maintained at 60° C. until the reagents disappeared. The reaction medium was then poured into a water/ice mixture with vigorous stirring and the precipitate was filtered off by suction, washed with water and then dried to constant weight to give 3.2 g of 3,5-dinitro-2-pyrrolidin-1-ylpyridine.

reactant | pyrrolidine | 0.03 mol, 2.2 g | N1CCCC1 | C4H9N
reactant | 2-chloro-3,5-dinitropyridine | 0.015 mol, 3 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 3,5-dinitro-2-pyrrolidin-1-ylpyridine | 3.2 g | [N+](=O)([O-])C=1C(=NC=C(C1)[N+](=O)[O-])N1CCCC1 | C9H10N4O4
